US05116861
To the solution of N-t-butoxycarbonyl-S-trityl-D-penicillamine (A-2) (6.0 g) in dimethylformamide (40 ml), were added methyl iodide (1.5 ml) and potassium hydrogencarbonate (2.4 g), and the mixture was stirred for 14 hours. To the reaction mixture was added ice-water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated saline, and dried over magnesium sulfate. The solvent was evaporated off under reduced pressure, to give N-t-butoxycarbonyl-S-trityl-D-penicillamine methyl ester (6.0 g).

reactant | N-t-butoxycarbonyl-S-trityl-D-penicillamine | 6.0 g | C(C)(C)(C)OC(=O)N[C@H](C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C29H33NO4S
reactant | methyl iodide | 1.5 ml | CI | CH3I
reactant | potassium hydrogencarbonate | 2.4 g | C(O)([O-])=O.[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-t-butoxycarbonyl-S-trityl-D-penicillamine methyl ester | 6.0 g | COC([C@H](NC(=O)OC(C)(C)C)C(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H35NO4S
